US07094777B2
A stirred solution of 3-methylbenzothiophene (0.51 g, 3.37 mmol) in acetonitrile (5 μL) under nitrogen was treated with SELECTFLUOR™ (1.25 g, 3.35 mmol) and heated to 70° C. overnight. The solvent was removed in vacuo. The residue was taken up in ethyl acetate and washed with sodium hydrogen carbonate solution, water and brine, dried over MgSO4 and evaporated in vacuo. Purification by flash column chromatography on silica, eluting with isohexane, gave 2-fluoro-3-methyl-1-benzothiophene (72% pure, 190 mg, 0.82 mmol) which was treated according to the method of Example 29 Step 2 to give 3-(bromomethyl)-2-fluoro-1-benzothiophene (95 mg, 12%). 1H NMR (500 MHz, CDCl3) δ 7.75 (1H, d, J=8.0 Hz), 7.68 (1H, d, J=8.0 Hz), 7.46 (1H, t, J=7.6 Hz), 7.39–7.35 (1H, m), 4.65 (2H, s).

reactant | 3-methylbenzothiophene | 3.37 mmol, 0.51 g | CC1=CSC2=C1C=CC=C2 | C9H8S
reactant | SELECTFLUOR | [B-](F)(F)(F)F.[B-](F)(F)(F)F.C1C[N+]2(CC[N+]1(CC2)CCl)F
solvent | acetonitrile | 5 μL | C(C)#N | C2H3N
product | 2-fluoro-3-methyl-1-benzothiophene | 0.82 mmol, 190 mg, 72% | FC=1SC2=C(C1C)C=CC=C2 | C9H7FS
